2112-05-24 06:42:00 Physician Resident Progress Note
Chief Complaint: Dyspnea
   24 Hour Events:
   -pericardial drain put out total of 270cc since cath lab (400cc out in
   cath lab) and total of 35 cc since arriving in CCU
   -tolerating room air post-procedure
   -post procedure ECHO: There is a trivial pericardial effusion. There
   are no echocardiographic signs of tamponade
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2112-5-23**] 11:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-24**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 82 (72 - 101) bpm
   BP: 114/78(86) {103/63(73) - 148/92(102)} mmHg
   RR: 23 (12 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    420 mL
                                                                     35 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    300 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                  1,670 mL
                                                                    250 mL
   Urine:
                                                                    975 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
                                                                    695 mL
   Balance:
                                                                 -1,250 mL
                                                                   -215 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   GENERAL: Well appearing Caucasian male, Oriented x3. Mood, affect
   appropriate.
   NECK: Supple, JVP not elevated
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi.
   BACK: surgical scar at T6 appears well healed
   ABDOMEN: Surgical scars well healed. Soft, NTND. No HSM or tenderness.
   No abdominial bruits.  Pericardial drain site without erythema or TTP,
   draining serosangoinous fluid
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   142 K/uL
   8.9 g/dL
   97 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.0 mEq/L
   12 mg/dL
   103 mEq/L
   139 mEq/L
   26.7 %
   7.7 K/uL
        [image002.jpg]
                             [**2112-5-23**]  11:50 PM
   WBC
   7.7
   Hct
   26.7
   Plt
   142
   Cr
   0.8
   Glucose
   97
   Other labs: PT / PTT / INR:15.1/27.8/1.3, LDH:120 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   This is a 54 year old male with locally advanced esophageal cancer s/p
   chemo and radiation and more recently s/p esophagectomy who presents
   with progressive shortness of breath and found to have pericardial
   effusion for which he underwent c.cath with drainage of pericardial
   fluid.
   .
   # Pericardial Effusion: Exudative effusion by light
s criteria.
   Unlikely infectious given WBC <10,000 and glucose normal. Very possible
   this is a malignant effusion. Patient Hemodynamically stable overnight
   including stable resp status.
   - f/u pericardial fluid cell cytology and cx results
   - f/u ECHO performed this AM
   - can likely pulll drain today given output slowed, will f/u ECHO and
   surgery
   -percocet PRN for pain control
   - Appreciate thoracic surgey input
   .
   # PUMP: Post procedure ECHO on [**5-23**] demonstrated EF >55% .Patient
   remains euvolemic.
   - cont atenolol 50 mg daily
   .
   # CORONARIES: No active issues. Cont home dose of ASA and BB.
   .
   # RHYTHM: Remains in sinus rhythm, rate in the 70-80's.
   .
   # Esophageal CA: Patient is s/p chemo, radiation and esophagectomy.
   Plan for further treatment per primary oncology team.
   -          f/u thoracic surgery recs
   .
   # Anemia: Given iron of 17 this is iron deficiency anemia.
          -Begin ferrous sulfate 325 mg PO BID
   -Active T and S
   .
   # HTN: BP remains stable.
   - cont Atenolol 50 mg daily
   .
   .
   .
   .
   FEN: soft solids, thin liquids
   ACCESS: PIV's, L subclavian porta cath
   PROPHYLAXIS: SC heparin, senna/colace for bowel regimen
   CODE: FULL code
   HCP: [**Name (NI) 6511**] [**Name (NI) 6510**] (Father) [**Telephone/Fax (1) 6512**]-cell and
   [**Telephone/Fax (1) 6513**]-work
   DISPO: transfer back to thoracic surgery
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). ccu admit note from [**2112-5-23**].
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 60 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 862**] [**Name (NI) 3213**],MD
   on:[**2112-5-24**] 10:46 ------

2112-05-25 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ECHO: pericardial effusion is smaller and no right ventricular
   diastolic collapse is present (when compared to pre-pericardiocentesis
   images).
   - CT [**Doctor First Name **] agreed with pulling drain, and they were ready to discharge
   (we will transfer to floor for overnight observation)
   - drain was pulled
   - 7pm pt ate dinner and then 10mins later felt diaphoretic, clamy and
   uncomfortable. No CP or SOB. BP dropped to SBP 84, HR 70's. ECG no
   changes, pulsus 5, after 10 minutes BP increased to SBP 100's and felt
   better. CXR showed...
   - did not call out because of hypotension
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-25**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 70 (68 - 91) bpm
   BP: 97/56(67) {84/51(58) - 127/82(93)} mmHg
   RR: 11 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                    370 mL
                  PO:
                                                                    320 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                      0 mL
   Urine:
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -230 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   GENERAL: Well appearing Caucasian male, Oriented x3. Mood, affect
   appropriate.
   NECK: Supple, JVP not elevated
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: CTAB, no crackles, wheezes or rhonchi.
   BACK: surgical scar at T6 appears well healed
   ABDOMEN: Surgical scars well healed. Soft, NTND. No HSM or tenderness.
   No abdominial bruits.  Previous pericardial drain site c/d/i
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   142 K/uL
   8.9 g/dL
   97 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.0 mEq/L
   12 mg/dL
   103 mEq/L
   139 mEq/L
   26.7 %
   7.7 K/uL
        [image002.jpg]
                             [**2112-5-23**]  11:50 PM
   WBC
   7.7
   Hct
   26.7
   Plt
   142
   Cr
   0.8
   Glucose
   97
   Other labs: PT / PTT / INR:15.1/27.8/1.3, LDH:120 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   This is a 54 year old male with locally advanced esophageal cancer s/p
   chemo and radiation and more recently s/p esophagectomy who presents
   with progressive shortness of breath and found to have pericardial
   effusion for which he underwent c.cath with drainage of pericardial
   fluid.
   .
   # Pericardial Effusion: Exudative effusion by light
s criteria.
   Possible etiologies include reactive, XRT induced, malignant. Unlikely
   infectious given WBC <10,000 and glucose normal. Repeat ECHO [**5-24**]
   smaller pericardial effusion
   - f/u pericardial fluid cytology
   - oupt follow up with thoracic surgery, will likely need repeat ECHO in
   [**3-21**] wks
   - tylenol PRN for pain control
   .
   # Hypotension: Patient had episode of hypotension to 84/51 following
   removal of pericardial drain and in setting of eating dinner. No events
   noted on tele. Very possible this was a vaso-vagal episode.  Pressures
   immediately returned to normotensive range and remained stable
   overnight.
   -cont to monitor
   .
   # PUMP: Post procedure ECHO on [**5-23**] demonstrated EF >55% .Patient
   remains euvolemic.
   - cont atenolol 50 mg daily
   .
   # CORONARIES: No active issues. Cont home dose of ASA and BB.
   .
   # RHYTHM: Remains in sinus rhythm, rate in the 70-80's.
   .
   # Esophageal CA: Patient is s/p chemo, radiation and esophagectomy.
   Plan for further treatment per primary oncology team.
   - thoracic surgery f/u scheduled
   - Primary oncologists ([**Last Name (un) 6553**] and Golstein) contact[**Name (NI) **]-they will set up
   f/u
   .
   # Iron Deficiency Anemia: Could be related to blood loss during recent
   surgery. Patient should have outpatient work-up including age
   appropriate screening.
          -Cont ferrous sulfate 325 mg PO BID
   -Guiac stools
   .
   # HTN: Hypotensive episode as per above. BP remains stable.
   - cont Atenolol 50 mg daily
   .
   .
   .
   .
   FEN: soft solids, thin liquids
   ACCESS: PIV's, L subclavian porta cath
   PROPHYLAXIS: SC heparin, senna/colace for bowel regimen
   CODE: FULL code
   HCP: [**Name (NI) 6511**] [**Name (NI) 6510**] (Father) [**Telephone/Fax (1) 6512**]-cell and
   [**Telephone/Fax (1) 6513**]-work
   DISPO: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 862**] [**Name (NI) 3213**],MD
   on:[**2112-5-25**] 18:10 ------